US09108903B2
To methyl 5-[[2-fluoro-5-(trifluoromethyl)benzoyl]amino]pyridine-2-carboxylate (51.3 mg, 0.15 mmol) in N-methylpyrrolidinone (1 mL) was added 2,4-dimethoxyphenol (23.1 mg, 0.45 mmol), cesium carbonate (146.6 mg, 0.45 mmol) and the mixture was heated at 100° C. for 50 minutes to yield methyl 5-(2-(2,4-dimethoxyphenoxy)-5-(trifluoromethyl)benzamido)picolinate that was taken into the next step without further purification.

reactant | methyl 5-[[2-fluoro-5-(trifluoromethyl)benzoyl]amino]pyridine-2-carboxylate | 0.15 mmol, 51.3 mg | FC1=C(C(=O)NC=2C=CC(=NC2)C(=O)OC)C=C(C=C1)C(F)(F)F | C15H10F4N2O3
reactant | 2,4-dimethoxyphenol | 0.45 mmol, 23.1 mg | COC1=C(C=CC(=C1)OC)O | C8H10O3
reactant | cesium carbonate | 0.45 mmol, 146.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | methyl 5-(2-(2,4-dimethoxyphenoxy)-5-(trifluoromethyl)benzamido)picolinate | COC1=C(OC2=C(C(=O)NC=3C=CC(=NC3)C(=O)OC)C=C(C=C2)C(F)(F)F)C=CC(=C1)OC | C23H19F3N2O6
